US04067720
31.5 g of α-chloroacetyl isocyanate were added dropwise to a solution of 18.98 g of 3-hydroxy-5-ethoxy-1,2,4-thiadiazole in 200 ml of benzene and after stirring the mixture for 17 hours at 20° C, it was vacuum filtered. The recovered crystals were dried to obtain 20 g of 2-(N-α-chloroacetylcarbamoyl)-5-ethoxy-1,2,4-thiadiazole-3-one melting at 132° C.

reactant | α-chloroacetyl isocyanate | 31.5 g | ClCC(=O)N=C=O | C3H2ClNO2
reactant | 3-hydroxy-5-ethoxy-1,2,4-thiadiazole | 18.98 g | OC1=NSC(=N1)OCC | C4H6N2O2S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-(N-α-chloroacetylcarbamoyl)-5-ethoxy-1,2,4-thiadiazole-3-one | 20 g | ClCC(=O)NC(=O)N1SC(=NC1=O)OCC | C7H8ClN3O4S
